US07514566B2
Methyl 2-(tert-butoxycarbonyl)-3-(3-fluoro-4-methoxyphenyl)propanoate
In a 500 mL round bottom flask, (Z)-methyl 2-(tert-butoxycarbonyl)-3-(3-fluoro-4-methoxyphenyl)acrylate (16 g, 49 mmol) was dissolved in MeOH (500 mL), and palladium hydroxide on carbon (0.069 g, 0.49 mmol) was added. The reaction mixture was stirred for 2 days under a hydrogen balloon and then filtered through Celite, and concentrated in vacuum to give the title compound as crude product. MS m/z: 326 (M−1).

reactant | (Z)-methyl 2-(tert-butoxycarbonyl)-3-(3-fluoro-4-methoxyphenyl)acrylate | 49 mmol, 16 g | C(C)(C)(C)OC(=O)\C(\C(=O)OC)=C/C1=CC(=C(C=C1)OC)F | C16H19FO5
solvent | MeOH | 500 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.49 mmol, 0.069 g | [OH-].[OH-].[Pd+2]
product | Methyl 2-(tert-butoxycarbonyl)-3-(3-fluoro-4-methoxyphenyl)propanoate | C(C)(C)(C)OC(=O)C(C(=O)OC)CC1=CC(=C(C=C1)OC)F | C16H21FO5
